*SPICE Netlist for circuit 559
C1 0 3 1nF
C2 3 5 1nF
V1 5 0 5V
M2 6 3 0 0 NMOS W=1u L=1u
M1 2 1 6 6 NMOS W=1u L=1u
R1 2 VDD 1k
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

