*SPICE Netlist for circuit 584
I1 0 3 DC 1mA
M1 VDD 5 4 4 NMOS W=1u L=1u
M2 5 3 0 0 NMOS W=1u L=1u
R2 0 1 1k
R3 0 4 1k
R4 0 4 1k
R5 3 1 1k
R1 5 VDD 1k
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

