*SPICE Netlist for circuit 601
I1 3 1 DC 1mA
M1 2 3 0 0 NMOS W=1u L=1u
R1 0 1 1k
R4 1 2 1k
R2 2 VDD 1k
R3 3 VDD 1k
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

