*SPICE Netlist for circuit 607
M2 4 1 0 0 NMOS W=1u L=1u
R3 0 2 1k
R5 6 1 1k
R4 1 2 1k
M1 3 4 2 2 NMOS W=1u L=1u
R1 3 VDD 1k
R2 4 VDD 1k
.MODEL NMOS NMOS (LEVEL=1 VTO=1 KP=1.0e-4 LAMBDA=0.02)

.OP
.END

